US08536179B2
To a stirred suspension of ethyl 5-cyano-4-methyl-6-oxo-1,6-dihydropyridine-2-carboxylate (2.0 g, 9.70 mmol) in CH2Cl2 (25 mL) was added trimethyloxonium tetrafluoroborate (2.0 g, 13.52 mmol). The reaction was rinsed down with CH2Cl2 and stirred at RT for 24 hr. (The reaction eventually cleared up.) To the reaction was added 1N NaOH (75 mL). After stirring for 10 minutes the mixture was poured into a separatory funnel. The CH2Cl2 phase was removed, dried (Na2SO4), filtered and concentrated under vacuum. Purification by silica gel chromatography (Analogix SF25-40 g, 50 to 100% CH2Cl2 in hexanes) gave the product ethyl 5-cyano-6-methoxy-4-methylpicolinate (1.13 g, 5.13 mmol, 52.9% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 7.75 (s, 1H), 4.37 (q, J=7.1 Hz, 2H), 4.03 (s, 3H), 2.55 (s, 3H), 1.33 (t, J=7.2 Hz, 3H). MS (ES)+m/e 221.2 [M+H]+.

reactant | ethyl 5-cyano-4-methyl-6-oxo-1,6-dihydropyridine-2-carboxylate | 9.70 mmol, 2.0 g | C(#N)C1=C(C=C(NC1=O)C(=O)OCC)C | C10H10N2O3
reactant | trimethyloxonium tetrafluoroborate | 13.52 mmol, 2.0 g | F[B-](F)(F)F.C[O+](C)C
reactant | NaOH | 1N, 75 mL | [OH-].[Na+]
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | ethyl 5-cyano-6-methoxy-4-methylpicolinate | 5.13 mmol, 1.13 g, 52.9% yield | C(#N)C=1C(=CC(=NC1OC)C(=O)OCC)C | C11H12N2O3
